### ISSUE TITLE
Equation lemmas are longer generated by a simple match

### ISSUE THREAD

**Issue by eric-wieser** [leanprover/lean4#2042]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

Compare this Lean 3 code
```lean
@[simp]
def foo : ℕ → ℕ
| a := 2 * a

example : foo = λ a, a + a :=
begin
  success_if_fail { simp },  -- only `foo x` is matched by the equation lemma
  funext,
  simp, -- now matches
  sorry
end
```
vs the same code in Lean 4
```lean
@[simp]
def foo : Nat → Nat
| a => 2 * a

example : foo = fun a => a + a :=
by
  simp -- unfolds foo into a lambda
  sorry
```

The Lean3 behavior was very useful in mathlib; for instance, in the definition of
```lean
/-- The transpose of a matrix. -/
def transpose (M : matrix m n α) : matrix n m α
| x y := M y x
```
it means that `simp [transpose]` only simplifies terms of the form `transpose M i j` and not `transpose M`.

### Steps to Reproduce

1. Run the code above in Lean 3 and Lean 4
2. Observe the behavior difference

**Expected behavior:** Lean 4 behaves like Lean 3 and generates an equation lemma `foo a = 2 * a`

**Actual behavior:** Lean 4 generates an equation lemma ` foo = fun a => 2 * a` 

**Reproduces how often:** 100%

### Versions

Lean 4.0.0-nightly-2023-01-16

### Additional Information

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.40.5Bsimp.5D.20on.20equation.20compiler.20definitions/near/322022846), and an [older Zulip message](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.E2.9C.94.20simp.20normal.20form/near/318471016)

**Comment by eric-wieser** [comment]
It seems that match statements are a distraction here, as
```lean
@[simp]
def foo (a : Nat) : Nat := 2 * a
```
results in `simp` unfolding unapplied `foo` to `fun a => 2 * a` just as it did above.
